US04452985
B. 3-Acetylbenzenecarboximidamide, Hydrochloride
A mixture of 14 g. (0.08 mole) of 3-acetylbenzenecarboximidic acid ethyl ester, hydrochloride of A. above and 14 g. (0.15 mole) of finely ground ammonium carbonate in 100 ml. of ethanol is heated at boiling temperature in an open flask for 3 hours. The solution is cooled and the first small amount of precipitate is collected and is discarded. The filtrate is further cooled to precipitate 6.7 g. of product with a melting point of 193° (dec.).

reactant | 3-acetylbenzenecarboximidic acid ethyl ester, hydrochloride | 0.08 mole | Cl.C(C)OC(=N)C1=CC(=CC=C1)C(C)=O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 3-Acetylbenzenecarboximidamide, Hydrochloride | Cl.C(C)(=O)C=1C=C(C=CC1)C(N)=N | InChI=1S/C9H10N2O.ClH/c1-6(12)7-3-2-4-8(5-7)9(10)11;/h2-5H,1H3,(H3,10,11);1H
